US09290517B2
Step B: trans-racemic-2-(4-iodophenyl)cyclohexyl acetate
To a stirred solution of trans-racemic-2-phenylcyclohexyl acetate (5.60 g, 25.7 mmol) under nitrogen in TFA (50 ml) at 0° C. was added N-iodosuccinimide (5.77 g, 25.7 mmol) portionwise over 5 minutes. The mixture was allowed to warm and stir at room temperature for 3 hours. The mixture was concentrated under reduced pressure. The resultant oil was chromatographed using an 80 g silica gel cartridge eluted with 0-20% ethyl acetate in hexanes over 15 column volumes. The desired product fractions were combined and concentrated under reduced pressure to provide the desired product as a yellow oil. LC-MS: calculated for C14H17IO2 344.19 observed m/e: 345.33 (M+H)+ (Rt 2.60/4 min).

reactant | trans-racemic-2-phenylcyclohexyl acetate | 25.7 mmol, 5.60 g | C(C)(=O)O[C@H]1[C@@H](CCCC1)C1=CC=CC=C1 | C14H18O2
reactant | N-iodosuccinimide | 25.7 mmol, 5.77 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | TFA | 50 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | trans-racemic-2-(4-iodophenyl)cyclohexyl acetate | C(C)(=O)O[C@H]1[C@@H](CCCC1)C1=CC=C(C=C1)I | C14H17IO2
